US07718692B2
A. (R)-2-(4-Benzyloxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester
This compound was prepared from 4-benzyloxyaniline hydrochloride (4.0 g, 17.0 mmol) and (+)-N-carbobenzyloxy-d-proline (4.44 g, 17.8 mmol), using the same method to prepare pyridine-2-carboxylic acid (4-benzyloxyphenyl)amide, to give the product as a colorless solid, which was used without further purification in the subsequent step. 1H NMR(DMSO-d6) δ61.80-1.95 (m, 3H), 2.10-2.27 (m, 1H), 3.35-3.55 (m, 2H), 4.33 (m, 1H), 5.0 (m, 4H), 6.95 (d, 2H), 7.12-7.53 (m, 12H) and 9.95 (d, 1H).

reactant | 4-benzyloxyaniline hydrochloride | 17.0 mmol, 4.0 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(N)C=C1
reactant | (+)-N-carbobenzyloxy-d-proline | 17.8 mmol, 4.44 g | C(=O)(OCC1=CC=CC=C1)N1[C@@H](C(=O)O)CCC1 | C13H15NO4
reactant | pyridine-2-carboxylic acid (4-benzyloxyphenyl)amide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(=O)C1=NC=CC=C1 | C19H16N2O2
product | (R)-2-(4-Benzyloxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C(NC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C26H26N2O4
